US04542145
5-Nitro-N-[3-(1H-1,2,4-triazol-y)propyl]-2-furancarboxamide
A mixture of about 4.71 g of 5-nitro-2-furoic acid, about 4.86 g of 1,1'-carbonyldiimidazole and about 100 ml of dry tetrahydrofuran was stirred in a 250 ml round bottom flask with a drying tube for about 3 hours. An approximately 4.0 g portion of 1H-1,2,4-triazole-1-propanamine was added and the mixture was stirred overnight at room temperature. The mixture was refluxed for about 3 hours, about 15 ml of water was added, refluxing continued for about 2 hours, then the mixture was concentrated to remove the solvents. An approximately 200 ml portion of methylene chloride and about 30 ml of 1N sodium hydroxide were added, the mixture was shaken and the organic layer separated and washed with two about 50 ml portions of water, then dried, filtered and evaporated to a solid. This solid was recrystallized from ethanol, giving about 290 mg of the desired product as beige crystals, mp 176°-177° C.

reactant | 5-nitro-2-furoic acid | about 4.71 g | [N+](=O)([O-])C1=CC=C(O1)C(=O)O | C5H3NO5
reactant | 1,1'-carbonyldiimidazole | about 4.86 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | tetrahydrofuran | about 100 ml | O1CCCC1 | C4H8O
reactant | 1H-1,2,4-triazole-1-propanamine | N1(N=CN=C1)CCCN | C5H10N4
solvent | water | about 15 ml | O | H2O
product | 5-Nitro-N-[3-(1H-1,2,4-triazol-y)propyl]-2-furancarboxamide | about 290 mg | [N+](=O)([O-])C1=CC=C(O1)C(=O)NCCCN1N=CN=C1 | C10H11N5O4
